US08193378B2
To a solution of methyl 2-{[tert-butyl(dimethyl)silyl]oxy}-4-methylbenzoate (3.4 g) in carbon tetrachloride (68 mL) were added, and NBS (2.16 g) and AIBN (398 mg) were added thereto at room temperature, followed by stirring at 80° C. for 1 hour. Completion of the reaction was confirmed by means of TLC, and to the reaction liquid was added water to stop the reaction, followed by extraction with EtOAc. The organic layer was washed with brine, dried using MgSO4, and then concentrated under reduced pressure, followed by purification by silica gel column chromatography (automatic purification device, hexane:EtOAc=100:0 to 95:5) to obtain methyl 4-(bromomethyl)-2-{[tert-butyl(dimethyl)silyl]oxy}benzoate (3.79 g) as a colorless liquid.

reactant | methyl 2-{[tert-butyl(dimethyl)silyl]oxy}-4-methylbenzoate | 3.4 g | [Si](C)(C)(C(C)(C)C)OC1=C(C(=O)OC)C=CC(=C1)C | C15H24O3Si
reactant | NBS | 2.16 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 398 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | water | O | H2O
solvent | carbon tetrachloride | 68 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 4-(bromomethyl)-2-{[tert-butyl(dimethyl)silyl]oxy}benzoate | 3.79 g | BrCC1=CC(=C(C(=O)OC)C=C1)O[Si](C)(C)C(C)(C)C | C15H23BrO3Si
